US07632851B2
b) (4-Bromo-phenyl)-carbamic acid tert-butyl ester
2 mL (1.2 eq.) Triethylamine are added to a solution of 2 g (11.6 mmol) p-bromo-aniline in 25 mL THF. The reaction mixture is cooled to 0° C. and treated with 2.66 g (1.05 eq.) Boc2O under continuous stirring, then allowed to reach 20° C., stirred for an additional 20 hours and extracted with water/ethyl acetate. The combined organic phases are washed with brine, dried over magnesium sulfate and evaporated. The residue is column chromatographed (hexane, hexane/ethyl acetate 7:1 then 4:1) to yield after evaporation and recrystallization from hexane the desired product as a white powder.

reactant | Triethylamine | 2 mL, 1.2 eq. | C(C)N(CC)CC | C6H15N
reactant | p-bromo-aniline | 11.6 mmol, 2 g | BrC1=CC=C(N)C=C1 | C6H6BrN
reactant | Boc2O | 2.66 g, 1.05 eq. | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | (4-Bromo-phenyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=CC=C(C=C1)Br)=O | C11H14BrNO2
